US04500626
A mixture of 23.0 g of 2-acetylamino-4-tert-butyl-5-hexadecyloxyphenol, 120 ml of ethanol and 96 ml of 35% hydrochloric acid was refluxed with stirring for 5 hours. The reaction solution was cooled to precipitate crystals. The crystals were collected by filtration. 23.2 g of 2-amino-4-tert-butyl-5-hexadecyloxyphenol hydrochloride was obtained.

reactant | 2-acetylamino-4-tert-butyl-5-hexadecyloxyphenol | 23.0 g | C(C)(=O)NC1=C(C=C(C(=C1)C(C)(C)C)OCCCCCCCCCCCCCCCC)O | C28H49NO3
reactant | hydrochloric acid | 96 ml | Cl | ClH
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-amino-4-tert-butyl-5-hexadecyloxyphenol hydrochloride | 23.2 g | Cl.NC1=C(C=C(C(=C1)C(C)(C)C)OCCCCCCCCCCCCCCCC)O | InChI=1S/C26H47NO2.ClH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-29-25-21-24(28)23(27)20-22(25)26(2,3)4;/h20-21,28H,5-19,27H2,1-4H3;1H
